US07985730B2
N-[2-({(3S,4S)-1-[4-Hydroxy-4-(1-oxidopyridin-4-yl)cyclohexyl]-4-propoxypyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide.
This compound was synthesized from N-(2-oxo-2-{[4-propoxypyrrolidin-3-yl]amino}ethyl)-3-(trifluoromethyl)benzamide hydrochloride and 4-hydroxy-4-(1-oxidopyridin-4-yl)cyclohexanone according to typical reductive amination procedure. MS (m/e): 565 (M+1)+.

reactant | N-(2-oxo-2-{[4-propoxypyrrolidin-3-yl]amino}ethyl)-3-(trifluoromethyl)benzamide hydrochloride | Cl.O=C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)NC1CNCC1OCCC
reactant | 4-hydroxy-4-(1-oxidopyridin-4-yl)cyclohexanone | OC1(CCC(CC1)=O)C1=CC=[N+](C=C1)[O-] | C11H13NO3
product | N-[2-({(3S,4S)-1-[4-Hydroxy-4-(1-oxidopyridin-4-yl)cyclohexyl]-4-propoxypyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | OC1(CCC(CC1)N1C[C@@H]([C@H](C1)OCCC)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C1=CC=[N+](C=C1)[O-] | C28H35F3N4O5
